US07547710B2
To a mixture of 6-tert-butoxy-4-(2-fluorophenyl)-2-isobutylquinoline-3-carbonitrile (2.0 g, 5.3 mmol), 25% aqueous ammonia (6 ml), tetrahydrofuran (25 ml) and methanol (100 ml) was added Raney-nickel (4 ml), and the mixture was stirred under a hydrogen (0.5 MPa) atmosphere at room temperature for 7 hrs. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. Trifluoroacetic acid (10 ml) was added to the residue and the mixture was stirred at room temperature for 30 min. The reaction mixture was concentrated under reduced pressure and the residue was partitioned between ethyl acetate-isopropanol (4:1, 125 ml) and 10% aqueous potassium carbonate solution (200 ml). The aqueous layer was separated and extracted with ethyl acetate-isopropanol (4:1, 125 ml). The organic layer and the extract were combined, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and tetrahydrofuran (50 ml) was added to dissolve the residue. Di-tert-butyl dicarbonate (1.7 g, 7.9 mmol) was added and the mixture was stirred at room temperature for 17 hrs. The reaction mixture was concentrated under reduced pressure and the obtained crude crystals were recrystallized from toluene to give tert-butyl [4-(2-fluorophenyl)-6-hydroxy-2-isobutylquinolin-3-yl]methylcarbamate (2.0 g, yield 90%) as pale-yellow crystals.

reactant | 6-tert-butoxy-4-(2-fluorophenyl)-2-isobutylquinoline-3-carbonitrile | 5.3 mmol, 2.0 g | C(C)(C)(C)OC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)C#N)C1=C(C=CC=C1)F | C24H25FN2O
reactant | ammonia | 6 ml | N | H3N
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | Di-tert-butyl dicarbonate | 7.9 mmol, 1.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | Raney-nickel | 4 ml | [Ni] | Ni
solvent | methanol | 100 ml | CO | CH4O
product | tert-butyl [4-(2-fluorophenyl)-6-hydroxy-2-isobutylquinolin-3-yl]methylcarbamate | 2.0 g, yield 90% | FC1=C(C=CC=C1)C1=C(C(=NC2=CC=C(C=C12)O)CC(C)C)CNC(OC(C)(C)C)=O | C25H29FN2O3
